### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/PGame/Basic.lean [hunk 1]
```diff
@@ -60,7 +60,7 @@ The material here is all drawn from
 
 An interested reader may like to formalise some of the material from
 * [Andreas Blass, *A game semantics for linear logic*][MR1167694]
-* [André Joyal, *Remarques sur la théorie des jeux à deux personnes*][joyal1997]
+* [André Joyal, *Remarques sur la théorie des jeux à deux personnes*][joyal1977]
```
Comment (grunweg) [inline Mathlib/SetTheory/PGame/Basic.lean:63]: Where exactly is the difference here?

File: Mathlib/Algebra/MvPolynomial/Rename.lean [hunk 2]
```diff
@@ -70,15 +70,13 @@ lemma map_comp_rename (f : R →+* S) (g : σ → τ) :
...
-    rename g (rename f p) = rename (g ∘ f) p :=
-  show rename g (eval₂ C (X ∘ f) p) = _ by
-    simp only [rename, aeval_eq_eval₂Hom]
-    -- Porting note: the Lean 3 proof of this was very fragile and included a nonterminal `simp`.
-    -- Hopefully this is less prone to breaking
-    rw [eval₂_comp_left (eval₂Hom (algebraMap R (MvPolynomial α R)) (X ∘ g)) C (X ∘ f) p]
-    simp only [comp_def, eval₂Hom_X']
-    refine eval₂Hom_congr ?_ rfl rfl
-    ext1; simp only [comp_apply, RingHom.coe_comp, eval₂Hom_C]
+    rename g (rename f p) = rename (g ∘ f) p := by
```
Comment (grunweg) [inline Mathlib/Algebra/MvPolynomial/Rename.lean:73]: Let me highlight this change - to get another pair of eyes that the porting note is likely not actionable.

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer delegate

File: Mathlib/SetTheory/PGame/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/SetTheory/PGame/Basic.lean:63]: 97 vs 77

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 3]
```diff
@@ -153,8 +153,10 @@ Useful to fix definitional equalities. -/
 protected def copy (S : NonUnitalSubalgebra R A) (s : Set A) (hs : s = ↑S) :
     NonUnitalSubalgebra R A :=
   { S.toNonUnitalSubsemiring.copy s hs with
-    smul_mem' := fun r a (ha : a ∈ s) => by
-      show r • a ∈ s
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean:157]: I think the original was better here.

File: Mathlib/SetTheory/PGame/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/SetTheory/PGame/Basic.lean:63]: Please call this out explicitly in the PR description, if it really was deliberate.

**Comment by eric-wieser** [comment]
bors d+

One of these I think is a step backwards, the rest look good, thanks!
